US06753391B1
To a solution of 2-(1-bromo-ethyl)-4,4dimethyl-4H-oxazol-5-one (3.00 g; 13.6 mmol) and 50 mL acetonitrile was added O-ethyl xanthic acid potassium salt (2.18 g; 13.6 mmol). The mixture was stirred under a nitrogen atmosphere at room temperature for 5 hours. The reaction mixture was filtered and the solid was washed with 10 mL acetontrile 10 mL. The combined filtrate was concentrated under reduced pressure to afford 2.89 g (81%) of dithiocarbonic acid S-[1-(4,4-dimethyl-5-oxo-4,5-dihydro-oxazol-2-yl)-ethyl] ester O-ethyl ester as a yellow oil.

reactant | 2-(1-bromo-ethyl)-4,4dimethyl-4H-oxazol-5-one | 13.6 mmol, 3.00 g | BrC(C)C=1OC(C(N1)(C)C)=O | C7H10BrNO2
reactant | O-ethyl xanthic acid potassium salt | 13.6 mmol, 2.18 g | [K+].C(C)OC(=S)[S-]
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | dithiocarbonic acid S-[1-(4,4-dimethyl-5-oxo-4,5-dihydro-oxazol-2-yl)-ethyl] ester O-ethyl ester | 2.89 g, 81% | C(C)OC(SC(C)C=1OC(C(N1)(C)C)=O)=S | C10H15NO3S2
